US05134142
A solution of sodium nitrite (0.26 g) in water (0.3 ml) was added to an ice-salt cooled mixture of 1-(4-fluorophenyl)-5-[4-(methylthio)phenyl]-3-pyrazolamine (1 g), acetonitrile (1 ml), sulfuric acid (0.6 ml) and water (1.6 ml). The mixture was stirred at 0° C. for 30 minutes. The resulting mixture was added portionwise to a mixture of cuprous bromide (645 mg), sodium bromide (582 mg), hydrobromic acid (1.7 ml) and water (3 ml) at 80° C. The mixture was stirred at 80° C. for 30 minutes and extracted with toluene. The extract was washed with water, dried, and evaporated in vacuo. The obtained residue was purified by column chromatography on silica gel (10 g) to give crystals of 3-bromo-1-(4-fluorophenyl)-5-[4-(methylthio)phenyl]pyrazole (0.35 g).

reactant | sodium nitrite | 0.26 g | N(=O)[O-].[Na+]
reactant | 1-(4-fluorophenyl)-5-[4-(methylthio)phenyl]-3-pyrazolamine | 1 g | FC1=CC=C(C=C1)N1N=C(C=C1C1=CC=C(C=C1)SC)N | C16H14FN3S
reactant | sulfuric acid | 0.6 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium bromide | 582 mg | [Br-].[Na+]
reactant | hydrobromic acid | 1.7 ml | Br | BrH
solvent | water | 0.3 ml | O | H2O
solvent | water | 3 ml | O | H2O
solvent | water | 1.6 ml | O | H2O
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
product | 3-bromo-1-(4-fluorophenyl)-5-[4-(methylthio)phenyl]pyrazole | 0.35 g | BrC1=NN(C(=C1)C1=CC=C(C=C1)SC)C1=CC=C(C=C1)F | C16H12BrFN2S
